US05773463
(±) cis 3,3a,4,8b-Tetrahydroindeno[2,1-d]oxazol-2-one
A solution of (±) trans-1-chloro-2-tert-butoxycarbonylaminoindane (10.0 g, 0.037 mol) in chloroform (200 ml) was heated under reflux in an argon atmosphere for 23 h. The mixture was concentrated in vacuo to give a brown solid. Trituration with diethyl ether afforded the title compound as a beige solid (6.0 g, 92%) m.p. 205°-206° C. which was used without further purification.

reactant | (±) trans-1-chloro-2-tert-butoxycarbonylaminoindane | 0.037 mol, 10.0 g | Cl[C@H]1[C@@H](CC2=CC=CC=C12)NC(=O)OC(C)(C)C | C14H18ClNO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | (±) cis 3,3a,4,8b-Tetrahydroindeno[2,1-d]oxazol-2-one | 6.0 g, 92% | O1C(N[C@H]2[C@@H]1C1=CC=CC=C1C2)=O | C10H9NO2
